US06492383B1
[2-(1-Methoxymethyl-1H-imidazol-2-yl)-thieno[3,2-b]pyridin-7-yl]-(2-methyl-1H-indol-5-yl)-amine
The title compound was prepared from 7-chloro-2-(1-methoxymethyl-1H-imidazol-2-yl)-thieno[3,2-b]pyridine and 2-methyl-5-aminoindole by the procedure analogous to example 148(c) above. 1H NMR (400 MHz, CD3OD) δ8.15 (d, 1H), 7.85 (s, 1H), 7.53 (s, 1H), 7.37 (m, 2H), 7.11 (s, 1H), 7.02 (d, 1H), 6.81 (d, 1H), 6.19 (s, 1H), 5.46 (s, 2H), 3.38 (s, 1H), 2.44 (s, 1H); RP18-HPLC RT: 4.38 minutes; API MS: 390 (M+1).

reactant | 7-chloro-2-(1-methoxymethyl-1H-imidazol-2-yl)-thieno[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(S2)C=2N(C=CN2)COC | C12H10ClN3OS
reactant | 2-methyl-5-aminoindole | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | [2-(1-Methoxymethyl-1H-imidazol-2-yl)-thieno[3,2-b]pyridin-7-yl]-(2-methyl-1H-indol-5-yl)-amine | COCN1C(=NC=C1)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C21H19N5OS
